US08703784B2
To a solution of 1-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-fluoroquinolin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)ethanol (6.1 g, 10.4 mmol) in methylene chloride (100 mL) and triethylamine (7.1 mL, 50.9 mmol) under nitrogen was added methanesulfonyl chloride (2.4 mL, 31.0 mmol) dropwise. After 15 minutes the reaction was complete by HPLC. The contents of the flask were transferred to a separatory funnel, washed twice with water and twice with brine. The organics were dried over sodium sulfate, filtered and concentrated in vacuo to afford 1-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-fluoroquinolin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)ethyl methanesulfonate (6.8 g; 98% yield) as a dark yellow oil that was used as is for the following step. HPLC: 6.18 min (Method D). LCMS: ESI+ m/z of 662 (M+H)

reactant | 1-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-fluoroquinolin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)ethanol | 10.4 mmol, 6.1 g | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC1=CC=C(C=C1C2)F)C(C)O)COCC[Si](C)(C)C)(C)C | C29H42FN5O3Si2
reactant | triethylamine | 50.9 mmol, 7.1 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 31.0 mmol, 2.4 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-fluoroquinolin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)ethyl methanesulfonate | 6.8 g, 98% yield | CS(=O)(=O)OC(C)C1=NC=2N(C(=C1)N(COCC[Si](C)(C)C)COCC[Si](C)(C)C)N=CC2C=2C=NC1=CC=C(C=C1C2)F | C30H44FN5O5SSi2
